US06852742B2
Synthesis of 2-ethoxy-6-pentadecyl-benzaldehyde
To a 250 mL round bottom flask fitted with a reflux condenser, was added pyridinium chloro chromate (PCC) (16.1 g, 75 mmol) in anhydrous dichloromethane (100 mL). 2-Ethoxy-6-pentadecyl-benzyl alcohol (18.1 g, 50 mmol) in dichloromethane (10 mL) was added in one portion to the magnetically stirred solution. After 1.5 hr dry ether (100 mL) was added and the supernatant decanted from the black gum. The insoluble residue was washed thoroughly with diethyl ether (3×25 mL), where upon it became black granular solid. The organic solution was passed through a short pad of celite, and the solvent was removed by distillation to obtain brownish low melting solid (Yield: 15 g).

reactant | pyridinium chloro chromate | 75 mmol, 16.1 g | [Cr](=O)(=O)(OCl)[O-].[NH+]1=CC=CC=C1
reactant | 2-Ethoxy-6-pentadecyl-benzyl alcohol | 50 mmol, 18.1 g | C(C)OC1=C(CO)C(=CC=C1)CCCCCCCCCCCCCCC | C24H42O2
reactant | ether | 100 mL | CCOCC | C4H10O
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 2-ethoxy-6-pentadecyl-benzaldehyde | Yield: 15 g | C(C)OC1=C(C=O)C(=CC=C1)CCCCCCCCCCCCCCC | C24H40O2
